US07335658B2
6-[4-(5-METHYL-2-TRIFLUOROMETHYLFURAN-3-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 5-methyl-2-trifluoromethylfuran-3-carboxylic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white solid (53% yield). m.p. 128-130° C. 1H NMR (500 MHz, CDCl3) δ 8.08, 7.99, 7.01, 6.15, 3.89-3.94), 3.77-3.82, 3.52-3.60, 2.39, 1.52, 0.71-0.80, 0.45-0.49, 0.08-0.13. MS (ES+) m/z 452 (M+1).

reactant | 5-methyl-2-trifluoromethylfuran-3-carboxylic acid | CC1=CC(=C(O1)C(F)(F)F)C(=O)O | C7H5F3O3
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(5-METHYL-2-TRIFLUOROMETHYLFURAN-3-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C1=C(OC(=C1)C)C(F)(F)F | C21H24F3N5O3
